Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
simvastatin
 
Attending: ___
 
Chief Complaint:
fevers
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ y/o M w/ hx HTN, neuropathy, s/p CVA with resultant
hemiplegia and pseudobulbar and bulbar findings also with
dysarthria and dysphagia, bilateral vocal fold atrophy, a right
vocal fold paresis, secondary muscle tension dysphonia,
wheelchair bound p/w fever.

Patient initially presented to urgent care today for his fever 
of
102.9°F at home. He took Tylenol at 3 ___.  Was febrile at ___ to
100.6F up to ___.  

Patient states sx ongoing x1 day PTA, c/o fever, denies CP, SOB,
nausea, vomiting, HA, diarrhea, dysuria, frequency.

Found to have a UTI at urgent care. Unable to obtain IV access 
at
___.  

Denies any flank pain, hematuria, chest pain or shortness of
breath. Last received Tylenol at 9 ___.

Prior cultures were checked but he has not had any prior 
positive
urine cultures.

 
Past Medical History:
*S/P STROKE                                                     
DYSARTHRIA                                                      
DYSPHAGIA                                                       
HEMIPLEGIA                                                      
HYPERTENSION                                                    
SNORING                                                         
NEUROPATHY                                                      
PUPULAR LESION                                                  
___                                                   
___ ___ ___                                           
H/O NEPHROLITHIASIS                                             
H/O DIABETES TYPE II                                            
H/O HYPERTRIGLYCERIDEMIA                                        
H/O OBESITY                                                     
H/O REHAB   
 
Social History:
___
Family History:
Mother   ___     LUNG CANCER  in ___, smoker; TRANSIENT 
ISCHEMIC  ATTACK    
 
Physical Exam:
Admission exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: left arm and lower extremity atrophy, able to lift left arm
to gravity but not under pressure, full strength in RLE/RUE, 
able
to wiggle toes on both feet, note contracture of ___ toe of
left foot in flexion, slurred speech with sounds of upper 
airways
secretion difficulties, cranial nerves intact but left shoulder
raise is weaker on left that right, note a gaze deficit on right
lateral gaze, decreased smile on left side
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, speech fluent, moves all limbs, see MSK
above for more detail
PSYCH: pleasant, appropriate affect

Discharge exam
***
 
Pertinent Results:
Admission labs
___ 07:40PM BLOOD WBC-11.9*# RBC-4.38* Hgb-13.1* Hct-40.5 
MCV-93 MCH-29.9 MCHC-32.3 RDW-13.2 RDWSD-45.0 Plt ___
___ 07:40PM BLOOD Glucose-153* UreaN-16 Creat-0.9 Na-140 
K-3.2* Cl-104 HCO3-26 AnGap-10

 
Brief Hospital Course:
SUMMARY/ASSESSMENT:  ___ y/o M w/ hx HTN, HLD, neuropathy, s/p 
CVA with resultant hemiplegia and pseudobulbar and bulbar 
findings also with dysarthria and dysphagia, bilateral vocal 
fold atrophy, a right vocal fold paresis, secondary muscle 
tension dysphonia, wheelchair bound p/w fever.

ACUTE/ACTIVE PROBLEMS:
#Sepsis ___ Klebsiella UTI (mostly ___, resist to 
ampicillin-sulbactam and intermed to nitrofurantoin) - Pt 
presented with fever and leukocytosis with positive UA. Sepsis 
resolved within 24h of initiation of IV antibiotics with 
resolution of leukocytosis but pt continued to have intermittent 
breakthrough fevers. Pt was without breakthrough fevers for >24h 
prior to discharge, temp curve improved. Renal US was *neg* for 
hydro-uretero-nephrosis or any other e/o obstructive calculus. 
S/p IVF repletion.

#Chronic anticoagulation, supratherapeutic on admission - INR 
3.2 on admission, subsequently therapeutic per daily labs 
throughout the rest of hospitalization, goal INR ___, received 3 
mg daily throughout.

#Thrombocytopenia - patient plt count fluctuates, sometimes low, 
more often WNL, may be related to sepsis, recommend monitoring 
at this time. 138K on ___, trended down to 98K on ___, back up 
to 143K by ___.

#Hypokalemia of 3.2, repleted in ED, subsequently WNL.

CHRONIC/STABLE PROBLEMS:
#Chronic anemia - baseline Hgb 12.6, now 12.5, no overt source 
of bleeding, likely related to chronic illness, monitor
#HTN - BP stable, continue antiHTN meds
#HLD - continue statin
#Does *not have T2DM - Per record, dx has been removed, pt not 
being monitored for it. Last a1c 5.5 on ___.
#neuropathy - not currently on medical control, monitor

# Hx CVA with resultant hemiplegia and pseudobulbar and bulbar 
findings also with dysarthria and dysphagia, bilateral vocal 
fold atrophy, a right vocal fold paresis, secondary muscle 
tension dysphonia, wheelchair bound. Pt maintains outpatient 
follow up ___ times per month for voice/swallow exercises.

#Oropharyngeal dysphagia - heart healthy diet w/ consistency 
ground, Honey prethickened liquids meds crushed in puree

#upper airway secretions - continue Glycopyrrolate home med PRN
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO QHS 
2. ClonazePAM 0.5 mg PO QHS 
3. dextromethorphan-quinidine ___ mg oral BID 
4. Doxazosin 4 mg PO HS 
5. Glycopyrrolate 1 mg PO TID:PRN secretions 
6. Lisinopril 40 mg PO DAILY 
7. Atorvastatin 40 mg PO QPM 
8. Ketoconazole Shampoo 1 Appl TP ASDIR 
9. Warfarin 3 mg PO DAILY16 
10. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
11. nystatin 100,000 unit/gram topical BID 
12. Docusate Sodium 100 mg PO BID:PRN constipation 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 11 Doses 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*11 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  Atenolol 25 mg PO QHS  
4.  Atorvastatin 40 mg PO QPM  
5.  ClonazePAM 0.5 mg PO QHS  
6.  dextromethorphan-quinidine ___ mg oral BID  
7.  Docusate Sodium 100 mg PO BID:PRN constipation  
8.  Doxazosin 4 mg PO HS  
9.  Glycopyrrolate 1 mg PO TID:PRN secretions  
10.  Ketoconazole Shampoo 1 Appl TP ASDIR  
11.  Lisinopril 40 mg PO DAILY  
12.  nystatin 100,000 unit/gram topical BID  
13.  Warfarin 3 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pyelonephritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___

You were admitted for fevers and found to have a urinary tract 
infection which also caused an initial period of stress on the 
body called sepsis. The sepsis resolved promptly with initiation 
of IV antibiotics and the UTI has continued to respond 
throughout the hospitalization.
 
Followup Instructions:
___